US08604211B2
Preparation of 2-(Methylthio)ethyl methyl(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)carbamate (Compound 50)
2-Methylthioethanol (100 μL, 1.2 mmol, 1.5 equiv) was added to a stirred 20% solution of phosgene in toluene (1.2 mL, 2.3 mmol, 3.0 equiv) at 0° C. The resulting colorless solution was allowed to warm to 23° C. and stirred for 1.5 h. The reaction mixture was concentrated by rotary evaporation. The residue was added to a stirred suspension of N-methyl-5-(pyridin-3-yl)-1,3,4-thiadiazol-2-amine (150 mg, 0.78 mmol, 1.0 equiv) and 4-dimethylaminopyridine (190 mg, 1.6 mmol, 2.0 equiv) in 1,2-dichloroethane (7.8 mL) at 23° C. The resulting yellow solution was heated to 75° C. for 18 h. The cooled reaction mixture was diluted with a saturated solution of sodium bicarbonate (50 mL) and extracted with ethyl acetate (3×40 mL). The combined organic layers were dried (MgSO4), gravity filtered, and concentrated by rotary evaporation. The residue was purified by silica gel column chromatography (ethyl acetate) to afford the title compound as a white powder (190 mg, 79%): mp 126-128° C.; IR (KBr thin film) 3044 (w), 2958 (w), 2910 (w), 1700 (s), 1572 (w) cm−1; 1H NMR (300 MHz, CDCl3) δ 9.12 (br s, 1H), 8.70 (d, J=5 Hz, 1H), 8.27 (dt, J=8, 2 Hz, 1H), 7.42 (dd, J=8, 5 Hz, 1H), 4.51 (t, J=7 Hz, 2H), 3.75 (s, 3H), 2.87 (t, J=7 Hz, 2H), 2.21 (s, 3H); ESIMS m/z 311 ([M+H]+).

reactant | 2-Methylthioethanol | 1.2 mmol, 100 μL, 1.5 equiv | CSCCO | C3H8OS
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 2.3 mmol, 1.2 mL, 3.0 equiv | C1(=CC=CC=C1)C | C7H8
reactant | N-methyl-5-(pyridin-3-yl)-1,3,4-thiadiazol-2-amine | 0.78 mmol, 150 mg, 1.0 equiv | CNC=1SC(=NN1)C=1C=NC=CC1 | C8H8N4S
catalyst | 4-dimethylaminopyridine | 1.6 mmol, 190 mg, 2.0 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,2-dichloroethane | 7.8 mL | ClCCCl | C2H4Cl2
solvent | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
product | 2-(Methylthio)ethyl methyl(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)carbamate | 190 mg, 79% | CN(C(OCCSC)=O)C=1SC(=NN1)C=1C=NC=CC1 | C12H14N4O2S2
